US08247429B2
ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate
Ethyl 9-(cyanomethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (145 mg, 0.512 mmol) and Raney cobalt (1.5 g) were suspended in 2M ammonia/methanol solution (50 mL), and the mixture was stirred under a hydrogen atmosphere at room temperature for 14 hr. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure to give the title compound (145 mg, yield 99%).

reactant | Ethyl 9-(cyanomethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.512 mmol, 145 mg | C(#N)CC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C16H17N3O2
solvent | ammonia methanol | 2M, 50 mL | N.CO
catalyst | cobalt | 1.5 g | [Co] | Co
product | ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 145 mg, yield 99% | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C16H21N3O2
